US04599357
The solution of 3.6 g of 3-acetylthiopropanoyl chloride in 10 ml of methylene chloride is added dropwise while stirring under nitrogen to the suspension of 5.4 g of 5,6-dimethoxyindoline-2-carboxylic acid ethyl ester and 5.96 g of powdered potassium carbonate in 40 ml of methylene chloride. The mixture is stirred for 2 hours at room temperature, filtered and the filtrate washed successively with saturated aqueous sodium bicarbonate, water, 0.5N hydrochloric acid and water. The organic solution is dried, evaporated, the residue crystallized from petroleum ether and further purified by slurrying in diethyl ether for 2 hours, to yield the 1-(3-acetylthiopropanoyl)-5,6-dimethoxyindoline-2-carboxylic acid ethyl ester melting at 104°-106°.

reactant | 3-acetylthiopropanoyl chloride | 3.6 g | C(C)(=O)SCCC(=O)Cl | C5H7ClO2S
reactant | 5,6-dimethoxyindoline-2-carboxylic acid ethyl ester | 5.4 g | C(C)OC(=O)C1NC2=CC(=C(C=C2C1)OC)OC | C13H17NO4
reactant | potassium carbonate | 5.96 g | C([O-])([O-])=O.[K+].[K+]
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | 1-(3-acetylthiopropanoyl)-5,6-dimethoxyindoline-2-carboxylic acid ethyl ester | C(C)OC(=O)C1N(C2=CC(=C(C=C2C1)OC)OC)C(CCSC(C)=O)=O | C18H23NO6S
